US04644071
Preparation 6 2-(3-bromopropoxy)naphthalene
A mixture of 14.5 g (0.1 mole) of 2-naphthol, 30.3 g (0.15 mole) of 1,3-dibromopropane, 15 g of anhydrous potassium carbonate, and 1 g of sodium iodide in 125 ml of methyl ethyl ketone was stirred at reflux for one day. After cooling, the mixture was filtered to remove insolubles and the filtrate was concentrated in vacuo to dryness. The residue was dissolved in dichloromethane, washed twice with 10% aqueous sodium hydroxide, and redried thoroughly in vacuo. The residue was dissolved in hot pentane and filtered hot, and the filtrate was then concentrated under a stream of nitrogen and cooled in a refrigerator, giving the title compound, m.p. 53°-55°.

reactant | 2-naphthol | 0.1 mole, 14.5 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | 1,3-dibromopropane | 0.15 mole, 30.3 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1 g | [I-].[Na+]
solvent | methyl ethyl ketone | 125 ml | C(C)C(=O)C | C4H8O
product | 2-(3-bromopropoxy)naphthalene | BrCCCOC1=CC2=CC=CC=C2C=C1 | C13H13BrO
